US07846923B2
5. 3-(4-Ethyl-piperazin-1-yl)-N-[4-methyl-3-(9-methyl-8-oxo-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-phenyl]-5-trifluoromethyl-benzamide
A mixture of 7-(5-amino-2-methyl-phenyl)-9-methyl-3,9-dihydro-3,4,9-triaza-cyclopenta[a]naphthalen-8-one (22 mg, 0.07 mmol), 3-(4-Ethyl-piperazin-1-yl)-5-trifluoromethyl-benzoic acid (24 mg, 0.08 mmol), HATU (30 mg, 0.08 mmol) and DIEA (27 mg, 0.21 mmol) in 0.5 mmol DMF is stirred at room temperature for 2 hours. The solvent is removed by rotary evaporation. The crude product is purified by reverse phase HPLC to give the title compound as white solid. 1H NMR 400 MHz (DMSO-d6) δ 12.19 (s, 1H), 10.32 (s, 1H), 9.71 (s, 1H), 8.54 (s, 1H), 8.01 (s, 1H), 7.72 (s, 1H), 7.66 (m, 2H), 7.58 (s, 1H), 7.50 (t, 1H, J=2.8 Hz), 7.45 (s, 1H), 7.23 (d, 1H, J=8.4), 7.04 (s, 1H), 4.06 (m, 2H), 3.99 (s, 3H), 3.55 (b, 2H), 3.15 (m, 2H), 3.06 (m, 4H), 2.09 (s, 3H), 1.20 (t, 3H, J=7.2). MS m/z 589.2 (M+1).

reactant | 7-(5-amino-2-methyl-phenyl)-9-methyl-3,9-dihydro-3,4,9-triaza-cyclopenta[a]naphthalen-8-one | 0.07 mmol, 22 mg | NC=1C=CC(=C(C1)C1=CC2=CN=C3C(=C2N(C1=O)C)C=CN3)C | C18H16N4O
reactant | 3-(4-Ethyl-piperazin-1-yl)-5-trifluoromethyl-benzoic acid | 0.08 mmol, 24 mg | C(C)N1CCN(CC1)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C14H17F3N2O2
reactant | HATU | 0.08 mmol, 30 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.21 mmol, 27 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 0.5 mmol | CN(C)C=O | C3H7NO
product | 3-(4-Ethyl-piperazin-1-yl)-N-[4-methyl-3-(9-methyl-8-oxo-8,9-dihydro-3H-3,4,9-triaza-cyclopenta[a]naphthalen-7-yl)-phenyl]-5-trifluoromethyl-benzamide | C(C)N1CCN(CC1)C=1C=C(C(=O)NC2=CC(=C(C=C2)C)C2=CC3=CN=C4C(=C3N(C2=O)C)C=CN4)C=C(C1)C(F)(F)F | C32H31F3N6O2
